US04288442
2,3-Diamino-4,5-dimethyl-1-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzene trihydrochloride is reacted with phosgene analogously to Example 1 to give 4-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-6,7-dimethyl-2-benzimidazolinone hydrochloride in a yield of 24% of theory; m.p. 273°-275° C.

reactant | 2,3-Diamino-4,5-dimethyl-1-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzene trihydrochloride | Cl.Cl.Cl.NC1=C(C=C(C(=C1N)C)C)OCC(CN1CCC(CC1)COC1=CC=CC=C1)O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 4-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-6,7-dimethyl-2-benzimidazolinone hydrochloride | yield of 24% | Cl.OC(COC1=CC(=C(C=2NC(NC21)=O)C)C)CN2CCC(CC2)COC2=CC=CC=C2 | InChI=1S/C24H31N3O4.ClH/c1-16-12-21(23-22(17(16)2)25-24(29)26-23)31-15-19(28)13-27-10-8-18(9-11-27)14-30-20-6-4-3-5-7-20;/h3-7,12,18-19,28H,8-11,13-15H2,1-2H3,(H2,25,26,29);1H
